US09290451B2
c) 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid and α,α-dimethyl-2-thiazolemethanamine (CAN 1082393-38-1) as starting materials, MS (EI): m/e=409.1 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CC(C1)(F)F | C13H14F2N2O3
reactant | α,α-dimethyl-2-thiazolemethanamine | CC(N)(C=1SC=CN1)C | C6H10N2S
product | 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide | CC(C)(C=1SC=CN1)NC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCC1CC1 | C19H22F2N4O2S
